US08030337B2
(4-Bromo-7-methoxy-6-nitro-2,3-dihydro-1H-inden-1-ylidene)acetonitrile
To a suspension of 60% sodium hydride (1.03 g, 25.6 mmol) in tetrahydrofuran (100 mL) was added diethyl cyanomethylphosphonate (4.52 mL, 28.0 mmol) under ice-cooling, and the mixture was stirred for 15 min. Thereto was added a solution of 4-bromo-7-methoxy-6-nitroindan-1-one (6.67 g, 23.3 mmol) in tetrahydrofuran (50 mL), and the mixture was further stirred for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→40/60) to give the title compound (5.54 g, yield 77%).

reactant | sodium hydride | 25.6 mmol, 1.03 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 28.0 mmol, 4.52 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-bromo-7-methoxy-6-nitroindan-1-one | 23.3 mmol, 6.67 g | BrC1=C2CCC(C2=C(C(=C1)[N+](=O)[O-])OC)=O | C10H8BrNO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (4-Bromo-7-methoxy-6-nitro-2,3-dihydro-1H-inden-1-ylidene)acetonitrile | 5.54 g, yield 77% | BrC1=C2CCC(C2=C(C(=C1)[N+](=O)[O-])OC)=CC#N | C12H9BrN2O3
